US06841695B2
100 ml of a 3 M phenylmagnesium bromide solution in diethyl ether were added to 35 g of carbon disulfide in 150 ml of tetrahydrofuran (THF), while maintaining the temperature below 40° C. After one hour, the reaction was terminated by adding 50 ml of water. Ether and THF were removed by a rotary evaporator, after which the mixture obtained was transferred into a 500 ml separating funnel by adding 150 ml of water. 50 ml of heptane and 40 g of α-methylstyrene were added thereto, Concentrated aqueous hydrochloric acid was then added in portions, shaking vigorously each time. The addition of hydrochloric acid was continued until the aqueous layer was virtually colorless. The pH of the aqueous phase fell to a value of less than 7. The organic phase became deep violet, and this color is characteristic of the dithioester. The violet organic phase was separated from the aqueous phase. Volatile materials were removed from the mixture using a rotary evaporator. 93.5 g of a violet oil which contained dithiobenzoic acid were obtained. Dithiobenzoic acid contained in the oil was removed by extraction with 2% sodium hydroxide solution, after which 85 g of cumyl dithiobenzoate were obtained and may be used without further purification in RAFT polymerizations.

reactant | phenylmagnesium bromide | 3 M | C1(=CC=CC=C1)[Mg]Br
reactant | carbon disulfide | 35 g | C(=S)=S | CS2
reactant | Dithiobenzoic acid | C(C1=CC=CC=C1)(=S)S | C7H6S2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | cumyl dithiobenzoate | 85 g | C(C1=CC=CC=C1)(=S)SC(C)(C)C1=CC=CC=C1 | C16H16S2
